US07060827B2
To a solution of 2-chloro-N4-(4-ethyloxyphenyl)-5-fluoro-4-pyrimidineamine (0.25 g, 0.93 mmol) in ethylene glycol (3 mL) under nitrogen at room temperature was added i-Pr2EtN, 0.93 mmol) followed by 3,4-ethylenedioxyaniline (0.17 g, 1.12 mmol). The reaction mixture was heated to 200° C. for 5 h and then cooled to room temperature. The mixture was partitioned between H2O (20 mL) and EtOAc (20 mL) and the aqueous layer was extracted with EtOAc (20 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. The crude brown solid was purified by chromatography (2:1 CHCl3/EtOAc) to afford N4-(4-ethyloxyphenyl)-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine (0.21 g, 60%) as a tan solid: Rf0.42 (4:1 CHCl3/EtOAc); mp 163.8–167.2° C. (DSC); 1H NMR (300 MHz, CDCl3) δ 7.89 (d, J=2.8 Hz, 1H), 7.50–7.45 (m, 2H), 7.17 (d, J=2.5 Hz, 1H), 6.92–6.86 (m, 3H), 6.80–6.75 (m, 2H), 6.64 (bs, 1H), 4.26–4.21 (m, 4H), 4.03 (q, J=7.0, 2H), 1.42 (t, J=6.9 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ 156.1, 150.6, 143.6, 142.8, 140.3, 140.0, 139.5, 139.3, 134.0, 130.8, 123.2, 117.2, 115.1, 113.6, 109.4, 64.6, 64.0, 15.1; IR (ATR) 3403 cm−1; ESI MS m/z 383 [C20H19FN4O3+H]+; HPLC (Method A) 98.1% (AUC), tR=12.0 min. Anal. Calcd for C20H19FN4O3: C, 62.82; H, 5.01; N, 14.65. Found: C, 62.06; H, 5.01; N, 14.35.

reactant | 2-chloro-N4-(4-ethyloxyphenyl)-5-fluoro-4-pyrimidineamine | 0.93 mmol, 0.25 g | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCC)F | C12H11ClFN3O
reactant | i-Pr2EtN | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3,4-ethylenedioxyaniline | 1.12 mmol, 0.17 g | C1OC=2C=C(N)C=CC2OC1 | C8H9NO2
solvent | ethylene glycol | 3 mL | C(CO)O | C2H6O2
product | N4-(4-ethyloxyphenyl)-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | 0.21 g, 60% | C(C)OC1=CC=C(C=C1)NC1=NC(=NC=C1F)NC1=CC2=C(C=C1)OCCO2 | C20H19FN4O3
